US04005151
61.6 Grams of 2,5-dibromoaniline and 250 g of 75% aqueous sulfuric acid solution were charged into a ceramic ball mill having one liter capacity. A suspension of fine particles of 2,5-dibromoaniline sulfate was prepared by a method similar to that described in Example 5. The suspension was transferred into a beaker having one liter capacity. The ceramic ball mill used was washed with 120 g of 75% aqueous sulfuric acid solution and the washings were transferred into the beaker. Diazotization of 2,5-dibromoaniline sulfate in the form of suspension of fine particles was carried out by a method similar to that described in Example 5 except that 18.2 g of sodium nitrite powder was added. Hydrolysis of 2,5-dibromobenzenediazonium sulfate was carried out by a method similar to that described in Example 5. A xylene layer was isolated from the hydrolyzed product and a crude product of 2,5-dibromophenol was obtained after the xylene was removed by distillation. The crude product of 2,5-dibromophenol was steam distilled by introducing superheated steam. After the distillate was cooled, crystallized 2,5-dibromophenol thus formed was obtained by filtration and dried. 47.3 Grams of 2,5-dibromophenol having melting point of 71°-74° C was obtained. The yield was found to be 85.0%.

reactant | 2,5-dibromoaniline | BrC1=C(N)C=C(C=C1)Br | C6H5Br2N
reactant | sulfuric acid | 250 g | S(O)(O)(=O)=O | H2O4S
reactant | 2,5-dibromoaniline sulfate | S(=O)(=O)(O)O.BrC1=C(N)C=C(C=C1)Br
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2,5-dibromophenol | BrC1=C(C=C(C=C1)Br)O | C6H4Br2O
